US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(4-iodobenzamide)
Prepared by a method analogous to that described for the preparation of Intermediate 1 from (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and 4-iodobenzoic acid; the compound was purified by solid phase extraction on silica gel using ammoniated methanol/chloroform mixtures as the eluent followed by reverse phase HPLC on a Waters Bondapak® C18 column using a gradient of acetonitrile and 0.1% aqueous trifluoroacetic acid as the eluent. The product-containing fractions were evaporated, the residue was dissolved in methanol, excess hydrogen chloride solution (4M in 1,4-dioxane) was added and the solution was evaporated to give the hydrochloride salt of the title compound as a colourless solid; MS (ES+) 357 (MH+).

reactant | (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | 4-iodobenzoic acid | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(4-iodobenzamide) | N12C[C@@H](C(CC1)CC2)NC(C2=CC=C(C=C2)I)=O | C14H17IN2O
